US06720338B2
methyl 4-(4-ethyl-4-methyl-2,6-dioxopiperidin-1-yl)benzoate
The desired product was prepared by substituting 3-ethyl-3-methylglutaric anhydride and methyl 4-aminobenzoate for 3,3-dimethylglutaric anhydride and ethyl 4-aminobenzoate, respectively, in Example 119A. MS(DCI(+)) m/e 290 (M+H)+.

reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 3,3-dimethylglutaric anhydride | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | methyl 4-(4-ethyl-4-methyl-2,6-dioxopiperidin-1-yl)benzoate | C(C)C1(CC(N(C(C1)=O)C1=CC=C(C(=O)OC)C=C1)=O)C | C16H19NO4
